US05521170
A mixture of 1,5-bis(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine (737 mg) and iron powder (738 mg) in a mixture of ethanol (10 ml) and acetic acid (1 ml) was refluxed for 2 hours and the solution was cooled to ambient temperature. The mixture was filtered through a bed of celite and the filtrate was evaporated in vacuo. The residue was dissolved in chloroform and the solution was basified with saturated aqueous sodium bicarbonate solution. The solution was filtered through a bed of celite, and then the filtrate was washed with brine. Drying, filtering and the removal of solvents afforded a crude product. The crude product was chromatographed on silica gel (eluent: 2% methanol in chloroform) to give 1,5-bis(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine as a slightly yellow powder.

reactant | 1,5-bis(4-nitrobenzoyl)-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | 737 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2CCCN(C3=C2C=CC=C3)C(C3=CC=C(C=C3)[N+](=O)[O-])=O)C=C1 | C23H18N4O6
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 738 mg | [Fe] | Fe
product | 1,5-bis(4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | NC1=CC=C(C(=O)N2CCCN(C3=C2C=CC=C3)C(C3=CC=C(C=C3)N)=O)C=C1 | C23H22N4O2
